US05468766
1,6,6-Trimethyl-1,5,6,7-tetrahydro-4H-indazol-4-one
Prepared analogously to Example 1 starting from methylhydrazine and 2-(dimethylaminomethylene)-5,5-dimethyl-cyclohexane-1,3-dione.

reactant | methylhydrazine | CNN | CH6N2
reactant | 2-(dimethylaminomethylene)-5,5-dimethyl-cyclohexane-1,3-dione | CN(C)C=C1C(CC(CC1=O)(C)C)=O | C11H17NO2
product | 1,6,6-Trimethyl-1,5,6,7-tetrahydro-4H-indazol-4-one | CN1N=CC=2C(CC(CC12)(C)C)=O | C10H14N2O
